US07939528B2
(4-{[4-(1,3-Dioxolan-2-yl)-2-(methyloxy)phenyl]oxy}-2-nitrophenyl)formamide (430 mg) was hydrogenated in approximately 75 mL of ethyl acetate under an atmosphere of hydrogen over 100 mg of 10% Pd on carbon (wet, degussa type) for 3 days. The catalyst was filtered away and the filtrate was concentrated to give (2-amino-4-{[4-(1,3-dioxolan-2-yl)-2-(methyloxy) phenyl]oxy}phenyl)formamide, which was used without further purification. (M+1) 330.9, 1.79 min (LC/MS method B)

reactant | (4-{[4-(1,3-Dioxolan-2-yl)-2-(methyloxy)phenyl]oxy}-2-nitrophenyl)formamide | 430 mg | O1C(OCC1)C1=CC(=C(C=C1)OC1=CC(=C(C=C1)NC=O)[N+](=O)[O-])OC | C17H16N2O7
solvent | ethyl acetate | approximately 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 100 mg | [Pd] | Pd
product | (2-amino-4-{[4-(1,3-dioxolan-2-yl)-2-(methyloxy) phenyl]oxy}phenyl)formamide | NC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C1OCCO1)OC)NC=O | C17H18N2O5
